US08629270B2
2-(Diallylamino)-1-(5-fluoro-2-thienyl)ethanone
To a stirred solution of 2-bromo-1-(5-fluorothiophen-2-yl)ethanone (13.28 g, 59.53 mmol) in acetonitrile (298 mL) at 0° C. under nitrogen is added potassium carbonate (10.70 g, 77.39 mmol) and diallylamine (9.54 mL, 77.39 mmol). The mixture is allowed to slowly warm to room temperature with stirring over 16 hours then diluted with ethyl acetate (500 mL) and water (200 mL). The phases are separated and the aqueous phase extracted twice with ethyl acetate (100 mL). The combined organic extracts are dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue is purified by silica gel chromatography eluting with hexanes/ethyl acetate (9:1) to give the title compound (12.45 g, 87%) as a yellow oil. ES/MS (m/e): 240 (M+H).

reactant | 2-bromo-1-(5-fluorothiophen-2-yl)ethanone | 59.53 mmol, 13.28 g | BrCC(=O)C=1SC(=CC1)F | C6H4BrFOS
reactant | potassium carbonate | 77.39 mmol, 10.70 g | C([O-])([O-])=O.[K+].[K+]
reactant | diallylamine | 77.39 mmol, 9.54 mL | C(C=C)NCC=C | C6H11N
solvent | acetonitrile | 298 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 200 mL | O | H2O
product | 2-(Diallylamino)-1-(5-fluoro-2-thienyl)ethanone | 12.45 g, 87% | C(C=C)N(CC(=O)C=1SC(=CC1)F)CC=C | C12H14FNOS
